US03957988
2,7-Bis[3-(diethylamino)propionyl]thioxanthene dihydrochloride dihydrate
A mixture of 13.0 g (0.034 mole) of 2,7-bis(3-chloropropionyl)thioxanthene, 1 g of potassium iodide, 75 ml of diethylamine and 75 ml of tetrahydrofuran was allowed to stand for 72 hours and filtered. The residue was washed with tetrahydrofuran, evaporated to dryness then dissolved in ethanol. The solution was treated with ethanolic HCl, diluted with diethyl ether and the resulting solid was filtered off, recrystallized from methanol and diethyl ether and hydrated in a constant humidity chamber to give the desired product. M.P. 137°-140°C.

reactant | 2,7-bis(3-chloropropionyl)thioxanthene | 0.034 mole, 13.0 g | ClCCC(=O)C1=CC=2CC3=CC(=CC=C3SC2C=C1)C(CCCl)=O | C19H16Cl2O2S
reactant | potassium iodide | 1 g | [I-].[K+]
reactant | diethylamine | 75 ml | C(C)NCC | C4H11N
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 2,7-Bis[3-(diethylamino)propionyl]thioxanthene dihydrochloride dihydrate | O.O.Cl.Cl.C(C)N(CCC(=O)C1=CC=2CC3=CC(=CC=C3SC2C=C1)C(CCN(CC)CC)=O)CC | InChI=1S/C27H36N2O2S.2ClH.2H2O/c1-5-28(6-2)15-13-24(30)20-9-11-26-22(17-20)19-23-18-21(10-12-27(23)32-26)25(31)14-16-29(7-3)8-4;;;;/h9-12,17-18H,5-8,13-16,19H2,1-4H3;2*1H;2*1H2
